US06573293B2
5-(5-Bromo-2-oxo-1,2-dihydroindol-3-ylidenemethyl)-2-isopropyl-4-phenyl-1H-pyrrole-3-carboxylic Acid
5-Bromo-1,3-dihydroindol-2-one (170 mg, 0.8 mmol) was condensed with 5-formyl-2-isopropyl-4-phenyl-1H-pyrrole-3-carboxylic acid (205 mg) using method D to give 210 mg (58%) of the title compound as a yellow solid.

reactant | 5-Bromo-1,3-dihydroindol-2-one | 0.8 mmol, 170 mg | BrC=1C=C2CC(NC2=CC1)=O | C8H6BrNO
reactant | 5-formyl-2-isopropyl-4-phenyl-1H-pyrrole-3-carboxylic acid | 205 mg | C(=O)C1=C(C(=C(N1)C(C)C)C(=O)O)C1=CC=CC=C1 | C15H15NO3
product | 5-(5-Bromo-2-oxo-1,2-dihydroindol-3-ylidenemethyl)-2-isopropyl-4-phenyl-1H-pyrrole-3-carboxylic Acid | 210 mg, 58% | BrC=1C=C2C(C(NC2=CC1)=O)=CC1=C(C(=C(N1)C(C)C)C(=O)O)C1=CC=CC=C1 | C23H19BrN2O3
